US06169101A
To a solution of 2-tert-butoxy-6-difluoromethylpyridine (4.3 g) in dichloromethane (25 ml) trifluoroacetic acid (2 ml) was added. The reaction was stirred for 16 hours and then concentrated. The residue was diluted with water and neutralised with sodium bicarbonate. The solid formed was extracted into ethyl acetate, dried and concentrated to give 6-difluoromethylpyrid-2-one (3.2 g, 72% yield) as a white solid; 1H NMR (270 MHz): δ 6.31, 6.53, 6.75 (1H,t), 6.56(1H,m), 6.75(1H,m), 7.52(1H,m), 12.5(1H,brs) ppm.

reactant | 2-tert-butoxy-6-difluoromethylpyridine | 4.3 g | C(C)(C)(C)OC1=NC(=CC=C1)C(F)F | C10H13F2NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 6-difluoromethylpyrid-2-one | 3.2 g, 72% yield | FC(C1=CC=CC(N1)=O)F | C6H5F2NO
